US06770637B2
b) N-(3,5-Bis-trifluoromethyl-benzyl)-6-cyanomethyl-N-methyl-4-o-tolyl-nicotinamide
A mixture of 650 mg (1.15 mmol) (RS)-{5-[(3,5-bis-trifluoromethyl-benzyl)-methyl-carbamoyl]-4-o-tolyl-pyridin-2-yl}-cyano-acetic acid ethyl ester and 0.20 g (4.6 mmol) lithium chloride in wet dimethyl sulfoxide was stirred at 120° C. over night. After cooling the mixture was concentrated in vacuo. The residue was dissolved in ethyl acetate and a saturated aqueous solution of sodium bicarbonate. The layers were separated and the aqueous layer was extracted with two portions of ethyl acetate. The combined organic extracts were washed with two portions of water, dried with magnesium sulfate and concentrated to give 595 mg of crude product. Flash chromatography afforded 396 mg (69.9%) of the title compound as a white solid.

reactant | (RS)-{5-[(3,5-bis-trifluoromethyl-benzyl)-methyl-carbamoyl]-4-o-tolyl-pyridin-2-yl}-cyano-acetic acid ethyl ester | 1.15 mmol, 650 mg | C(C)OC(C(C#N)C1=NC=C(C(=C1)C1=C(C=CC=C1)C)C(N(C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)=O | C28H23F6N3O3
reactant | lithium chloride | 4.6 mmol, 0.20 g | [Cl-].[Li+]
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
product | N-(3,5-Bis-trifluoromethyl-benzyl)-6-cyanomethyl-N-methyl-4-o-tolyl-nicotinamide | 396 mg, 69.9% | FC(C=1C=C(CN(C(C2=CN=C(C=C2C2=C(C=CC=C2)C)CC#N)=O)C)C=C(C1)C(F)(F)F)(F)F | C25H19F6N3O
